US04238619
A mixture was heated with stirring under nitrogen of 4.6 parts of dibenzothiophene, 9.25 parts of diphenyliodonium fluoroborate and 0.2 part of copper benzoate at 210° C. for 30 minutes. The reaction mixture was allowed to cool to room temperature resulting in a crystalline product. The product was washed several times with anhydrous diethylether and then collected by filtration. Recrystallization from methylene chloride-ethyl ether gave a 55% yield of pure S-phenyldibenzothiophenium fluoroborate having a melting point of 237°-242° C. and the formula,

reactant | dibenzothiophene | C1=CC=CC=2SC3=C(C21)C=CC=C3 | C12H8S
reactant | diphenyliodonium fluoroborate | F[B-](F)(F)F.C1(=CC=CC=C1)[I+]C1=CC=CC=C1
catalyst | copper benzoate | C(C1=CC=CC=C1)(=O)[O-].[Cu+2].C(C1=CC=CC=C1)(=O)[O-]
product | S-phenyldibenzothiophenium fluoroborate | 55% yield | F[B-](F)(F)F.C1(=CC=CC=C1)[S+]1C2=C(C3=C1C=CC=C3)C=CC=C2 | InChI=1S/C18H13S.BF4/c1-2-8-14(9-3-1)19-17-12-6-4-10-15(17)16-11-5-7-13-18(16)19;2-1(3,4)5/h1-13H;/q+1;-1
